US05618941
3-[2-[(4-Chlorophenyl)sulphonylamino]ethyl]-5-[(4-fluorophenyl)hydroxymethyl]benzenepropanoic acid
Sodium borohydride (0.077 g) was added portionwise to a suspension of 3-[2-[(4-chlorophenyl)sulphonylamino]ethyl]-5-(4-fluorobenzoyl)benzenepropanoic acid (0.50 g) in ethanol (12 ml), and the resulting solution was stirred at room temperature for 18 hours. 2N hydrochloric acid (5 ml) was added dropwise followed by ethyl acetate (50 ml), and the mixture was stirred for 1 hour. The organic layer was separated, washed with water and dried (MgSO4). The solvent was evaporated and the residue was chromatographed on silica gel. The column was eluted with hexane/ethyl acetate (5:1), followed by hexane/ethyl acetate/acetic acid (50:50:1), gradually increasing the polarity to give a ratio of 10:90:1. The product fractions were combined and evaporated to give the title compound as a gum (0.36 g), Rf 0.45 (SS 15). Found: C,58.58; H,4.71; N,2.65. C24H23ClFNO5S requires C,58.59; H,4.71; N,2.85%.

reactant | Sodium borohydride | 0.077 g | [BH4-].[Na+]
reactant | 3-[2-[(4-chlorophenyl)sulphonylamino]ethyl]-5-(4-fluorobenzoyl)benzenepropanoic acid | 0.50 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCC=1C=C(C=C(C1)C(C1=CC=C(C=C1)F)=O)CCC(=O)O | C24H21ClFNO5S
reactant | hydrochloric acid | 2N, 5 ml | Cl | ClH
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 3-[2-[(4-Chlorophenyl)sulphonylamino]ethyl]-5-[(4-fluorophenyl)hydroxymethyl]benzenepropanoic acid | 0.36 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCC=1C=C(C=C(C1)C(O)C1=CC=C(C=C1)F)CCC(=O)O | C24H23ClFNO5S
